* D:\dokumenty\hobby\elektronika\projects\8bit_computer\ltspice\debouncing_circuit_timer555_monostable\debouncing_circuit_timer555_monostable.asc
R1 N001 N002 5K
R2 N002 N004 5K
R3 N004 0 5K
A1 set reset 0 0 0 N003 Q 0 SRFLOP Vhigh=4.9V Vlow=0V
XU1 THR N002 N001 0 reset LT1720
XU2 N004 TRG N001 0 set LT1720
V1 N001 0 5
Q1 THR N003 0 0 NPN
R4 THR N001 1000K
C1 THR 0 0.1µ V=10 Irms=2.4 Rser=0.0421193 Lser=0
R5 N001 TRG 1K
D1 Q N005 NSSW008CT-P1
S1 TRG 0 N007 0 SW
V2 N006 0 PULSE(0 5 0.1 0 0.01 0.01 0.01 2)
R6 N007 N006 2R
R7 N005 0 100R
C2 N002 0 10n
.model D D
.lib C:\Users\Karol\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Karol\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 1
.model SW SW(RON=.1 ROFF=1GIG VT=4)
.lib LT1720.sub
.backanno
.end
